US06409830B1
Synthesis of Lithium Dimethylgallium Isopropoxide (LiOPri.(PriO)GaMe2)
1.32 g (20.0 mmol) of lithium isopropoxide was added to 3.18 g (20.0 mmol) of dimethylgallium isopropoxide dissolved in diethyl ether and stirred for a day. The solvent was removed under a reduced pressure to obtain 3.82 g (17.0 mmol; 85% yield) of the title compound in the form of a white solid.

reactant | lithium isopropoxide | 20.0 mmol, 1.32 g | CC([O-])C.[Li+]
reactant | dimethylgallium isopropoxide | 20.0 mmol, 3.18 g | CC([O-])C.C[Ga+]C
solvent | diethyl ether | C(C)OCC | C4H10O
product | Lithium Dimethylgallium Isopropoxide | 85% yield | CC([O-])C.C[Ga+]C.[Li+].CC([O-])C | InChI=1S/2C3H7O.2CH3.Ga.Li/c2*1-3(2)4;;;;/h2*3H,1-2H3;2*1H3;;/q2*-1;;;2*+1
